US06673797B1
(1) Preparation of 2-Bromo-5-ethoxycarbonyl-furan
To a solution of 2-bromo-5-carboxyfuran (10 g) in dimethyl sulfoxide (100 ml), potassium carbonate (7.96 g) was added at 15 to 30° C. and ethyl iodide (16.8 ml) was added dropwise thereto. The mixture was stirred for 15 hours. The reaction solution was then poured into water and extracted with chloroform. The organic layer was washed with water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous NaCl solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 11.34 g of the desired product as an oil.

reactant | 2-bromo-5-carboxyfuran | 10 g | BrC=1OC(=CC1)C(=O)O | C5H3BrO3
reactant | potassium carbonate | 7.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 16.8 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-Bromo-5-ethoxycarbonyl-furan | 11.34 g | BrC=1OC(=CC1)C(=O)OCC | C7H7BrO3
